US08252935B2
a) 2-[5-(1-Ethyl-piperidin-3-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid ethyl ester
To a solution of compound 33b, 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester (47 mg, 0.11 mmol), and 4-Trifluoromethylacetophenone (20 mg, 0.11 mmol), in 1,2 dichloroethane (0.7 ml) was added sodium acetoxyborohydride (29 mg, 0.14 mmol) and acetic acid (6.6 μl, 0.12 mmol). The reaction stirred at room temperature with little product. The reaction was heated at 50° C., then reflux over 48 hours. The solution was concentrated in vacuo, and purified by silica gel chromatography to give the above pictured by product. Calcd for C28H36F3NO2 (M+H) 475.59, Found 476.4.

reactant | 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester | 0.11 mmol, 47 mg | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CNCCC1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H32F3NO2
reactant | 4-Trifluoromethylacetophenone | 0.11 mmol, 20 mg | CC(=O)C1=CC=C(C=C1)C(F)(F)F | C9H7F3O
reactant | sodium acetoxyborohydride | 0.14 mmol, 29 mg | C(C)(=O)O[BH3-].[Na+]
reactant | acetic acid | 0.12 mmol, 6.6 μl | C(C)(=O)O | C2H4O2
solvent | 1,2 dichloroethane | 0.7 ml | ClCCCl | C2H4Cl2
product | 2-[5-(1-Ethyl-piperidin-3-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid ethyl ester | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CN(CCC1)CC)C1=CC=C(C=C1)C(F)(F)F)=O | C28H36F3NO2
